US09403807B2
Step B: tert-butyl 1-(1-(4-chlorophenyl)-1-(2H-1,2,3-triazol-4-yl)propyl)-1H-indol-4-ylcarbamate
A solution of tert-butyl 1-(3-(4-chlorophenyl)pent-1-yn-3-yl)-1H-indol-4-ylcarbamate (200 mg, 0.5 mmol) in trimethylsilyl azide (3 mL) was heated at 100° C. under microwave for 3 h. The resulting mixture was diluted with brine (10 mL) and extracted with EA. The combined organic layers were dried over anhydrous sodium sulfate, filtered, and the solvent was removed in vacuo to afford the crude product. The product was purified via column chromatography (75% EtOAc/hexanes) to provide the title product.

reactant | tert-butyl 1-(3-(4-chlorophenyl)pent-1-yn-3-yl)-1H-indol-4-ylcarbamate | 0.5 mmol, 200 mg | ClC1=CC=C(C=C1)C(C#C)(CC)N1C=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C24H25ClN2O2
reactant | trimethylsilyl azide | 3 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | brine | 10 mL | [Cl-].[Na+].O
product | tert-butyl 1-(1-(4-chlorophenyl)-1-(2H-1,2,3-triazol-4-yl)propyl)-1H-indol-4-ylcarbamate | ClC1=CC=C(C=C1)C(CC)(C1=NNN=C1)N1C=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C24H26ClN5O2
